US08283353B2
4′-({4-[trans-4-(hydroxymethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a mixture of trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexanecarboxylic acid (7 g), N-methylmorpholine (1.9 mL) and tetrahydrofuran (100 mL) was added ethyl chlorocarbonate (1.6 mL) at 0° C., and the mixture was stirred at the same temperature for 2 hr. The reaction mixture was cooled to −15° C., sodium borohydride (1.6 g) and methanol (25 mL) were added, and the mixture was allowed to gradually warm to room temperature. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (5.3 g, 78%).

reactant | trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexanecarboxylic acid | 7 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)C(=O)O)=O | C29H29N5O3
reactant | N-methylmorpholine | 1.9 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chlorocarbonate | 1.6 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(hydroxymethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 5.3 g, 78% | OC[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H31N5O2
